2124-12-25 06:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2124-12-24**] 01:09 PM
 MULTI LUMEN - START [**2124-12-24**] 01:10 PM
 BLOOD CULTURED - At [**2124-12-24**] 01:57 PM
 URINE CULTURE - At [**2124-12-24**] 08:00 PM
 STOOL CULTURE - At [**2124-12-25**] 03:41 AM
   -Temporarily on Levophed o/n
   -D/C'd Lasix gtt @ 5:25 [**1-8**] decreased UOP and electrolyte changes
   -K 3.6 tolerated in AM, HD Pending
   Patient reports that he is cold this morning and has continuing
   testicular discomfort.
   Allergies:
   Lithium
   diabetes insipi
   Erythromycin Base
   Diarrhea;
   Cogentin (Oral) (Benztropine Mesylate)
   increased tremo
   Stelazine (Oral) (Trifluoperazine Hcl)
   Unknown;
   Clozaril (Oral) (Clozapine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2124-12-24**] 06:39 PM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2124-12-25**] 03:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-25**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.2
   HR: 80 (79 - 96) bpm
   BP: 118/40(62) {84/34(44) - 118/46(62)} mmHg
   RR: 18 (16 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
    Mixed Venous O2% Sat: 74 - 74
   Total In:
                                                                    407 mL
                                                                    287 mL
   PO:
                                                                    120 mL
                                                                    140 mL
   TF:
   IVF:
                                                                    287 mL
                                                                    122 mL
   Blood products:
   Total out:
                                                                    132 mL
                                                                     84 mL
   Urine:
                                                                    132 mL
                                                                     84 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    275 mL
                                                                    203 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.26/42/107/18/-7
   Physical Examination
   General: Slow to answer but awake, oriented, no acute distress
   HEENT: Sclera anicteric, dry MM, oropharynx clear
   Neck: supple, RIJ in place
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: S1 & S2 regular without murmur
   Abdomen:  distended, but non-tender, hyperactive bs
   Ext: anasarca, wwp, able to move all extremities
   Labs / Radiology
   281 K/uL
   8.2 g/dL
   54 mg/dL
   5.6 mg/dL
   18 mEq/L
   3.6 mEq/L
   95 mg/dL
   110 mEq/L
   140 mEq/L
   25.7 %
   18.6 K/uL
        [image002.jpg]
                             [**2124-12-24**]  01:16 PM
                             [**2124-12-24**]  02:13 PM
                             [**2124-12-25**]  02:59 AM
                             [**2124-12-25**]  03:18 AM
   WBC
   18.0
   18.6
   Hct
   26.1
   25.7
   Plt
   293
   281
   Cr
   5.5
   5.6
   TCO2
   19
   20
   Glucose
   57
   54
   Other labs: PT / PTT / INR:16.0/35.6/1.4, ALT / AST:[**3-19**], Alk Phos / T
   Bili:66/0.2, Differential-Neuts:77.0 %, Band:4.0 %, Lymph:12.0 %,
   Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L, Albumin:1.3 g/dL,
   Ca++:7.4 mg/dL, Mg++:1.8 mg/dL, PO4:8.0 mg/dL
   Imaging: CXR [**12-24**]
   IMPRESSION:
   1. Increased right pleural effusion, now large.
   2. Repeat non-rotated radiograph recommended to better assess right
   mediastinal contour.
   3. Atelectasis and/or pneumonia involving lingula and left lower lobe.
   Microbiology: [**12-24**] UCx, BCx, SCx pending
   Assessment and Plan
   This is a 64 M w/ pmh of stage IV CK, 3 recent UGI bleeds in the
   setting of duodenal ulcers, recent tx for MSSA endocarditis w/ 3+ AR,
   recent cardioversion for afib w/ rvr, transferred to [**Hospital1 54**] for
   consideration of CVVH in the setting of hypotension and likely
   continuing septic physiology.
   # Hypotension: Hypotensive/Normotensive o/n.  Likely septic physiology
   given WBC count 18 from 27 on the 14^th & cdiff +.  Otherwise afebrile.
   Levophed briefly overnight
   - hold BP meds for now
   - will continue vanc/zosyn for and d/c if cx neg X 48 hrs.
   - continue treating cdiff w/ po vanco as below
   - TTE today
   - Midodrine 5mg PO TID for pressor support during HD/CVVH
   - Continue levophed as needed
   # C. diff colitis: Currently being treated w/ po vanc (D1 = [**12-13**]).  Has
   a history of chronic diarrhea of unknown etiology.
   - continue po vanc X 14 after last day of broad-spectrum antibiotics
   ([**12-24**])
   - trend WBC count/ stool output
   # Acute renal failure on chronic renal failure:  His baseline cr was
   2.6 on admission to [**Hospital1 3335**].  Cr now 5.6 on transfer with anasarca.
   ATN with nephrotic syndrome (Alb 0.7).
   - Renal consult for CVVH vs HD
   - Renal to place line, consider DDAVP prior to line placement
   - renal diet
   - nephrocaps
   - phos binders given phos of 7.7
   # Hypoxia: h/o smoking so likely has some underlying COPD.  Likely a
   component of volume overload/pulmonary edema given renal failure.
   - continue ipratropium nebs
   - CVVH vs HD as above
   # Enterobacter clocae UTI: Per OSH, blood cx from [**12-16**] w/ NGTD.  D/C
   Cipro after 11 day course
   - Contact OSH Micro lab for sensitivity data
   - send UA/cx
   .
   # DVT: R superficial femoral vein thrombosis [**First Name8 (NamePattern2) **] [**Hospital1 3335**] report.  Is
   very high risk for recurrent GI bleed.
   -          D/C heparin ggt until stable HD line in place
   -          Restart heparin 24-48 hourts
   # Afib: Currently in sinus.  Status post cardioversion on [**12-20**] in the
   setting of hypotension.  Has been on heparin ggt and amio was started
   to prevent recurrent afib.  Likley afib occurred in the seting of
   septic shock from ? cdiff.
   - will d/c amio for now
   - D/C heparin given recent GI Bleeds until planned restart as above
   # Anemia: Macrocytic. Had an upper GI bleed during his last [**Hospital1 54**]
   hospitalization and 2 additional GI bleeds at [**Hospital1 3335**] requiring 6 U
   PRBC.  This may also be c/b B12 deficiency as it appears that his B12
   level was low in [**4-13**].
   - re-check B12/Folate
   - guiac stools
   - transfuse for hct < 21
   # Decubitus ulcers: Stage 1 sacral decubitus ulcer.
   - wound consult
   # DM: BS well-controlled w/o insulin coverage at [**Hospital1 3335**].
   - trend for now
   - add insulin SS if needed
   # Bipolar disorder/Schizophrenia: continue valproic acid, wellbutrin,
   seroquel, lamictal
   # GERD: continue pantoprazole 40 mg [**Hospital1 **] given h/o duodenal ulcers and
   GI bleed during last [**Hospital1 54**] hospitalization
   # Hyperlipidemia: continue simvastatin
   # BPH: hold terazosin as has a foley in place
   # FEN: No IVF, replete electrolytes, renal diet
   # Prophylaxis: P Boots, VRE carrier, known cdiff +
   # Access:
   1- Right IJ line (placed [**2124-12-16**]) - will request PICC and d/c
   2- Right radial A-line (placed [**2123-12-21**]) - will d/c if not needed
   # Code: Full with
limited duration of intubation
   # Communication: Patient and HCP Ms. [**First Name8 (NamePattern2) 7543**] [**Last Name (NamePattern1) 2288**] cell ([**Telephone/Fax (1) 7545**]
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2124-12-24**] 01:09 PM
   Multi Lumen - [**2124-12-24**] 01:10 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2124-12-26 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - D/C'ed IJ placed at [**Hospital1 3335**]
   - PICC line placed by IV team
   - Changed Lamotrigine to 37.5mg [**Hospital1 **] per pharm
   - Attempted to get culture data from [**Hospital1 3335**], however the medical
   records dept closed today - try again tomorrow ([**Telephone/Fax (1) 7573**]
   - Plan to restart heparin drip after HD line placed
   - Unable to start CVVH as line unable to be placed, renal will try
   again tomorrow
   - Replaced 2gm of Calcium
 MULTI LUMEN - STOP [**2124-12-25**] 02:47 PM
 PICC LINE - START [**2124-12-25**] 02:52 PM
   Allergies:
   Lithium
   diabetes insipi
   Erythromycin Base
   Diarrhea;
   Cogentin (Oral) (Benztropine Mesylate)
   increased tremo
   Stelazine (Oral) (Trifluoperazine Hcl)
   Unknown;
   Clozaril (Oral) (Clozapine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2124-12-24**] 06:39 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-12-26**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-12-25**] 11:59 PM
   Dextrose 50% - [**2124-12-26**] 05:15 AM
   Morphine Sulfate - [**2124-12-26**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-26**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36
C (96.8
   HR: 98 (77 - 100) bpm
   BP: 102/52(65) {89/33(46) - 102/52(65)} mmHg
   RR: 21 (9 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,061 mL
                                                                    269 mL
   PO:
                                                                    630 mL
             TF:
   IVF:
                                                                    356 mL
                                                                    219 mL
   Blood products:
   Total out:
                                                                  1,195 mL
                                                                     30 mL
   Urine:
                                                                    195 mL
                                                                     30 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                   -134 mL
                                                                    239 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 98%
   ABG: ///18/
   Physical Examination
   General: Slow to answer but awake, oriented, no acute distress
   HEENT: Sclera anicteric, dry MM, oropharynx clear
   Neck: supple, RIJ in place
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: S1 & S2 regular without murmur
   Abdomen:  distended, but non-tender, hyperactive bs
   Ext: anasarca, wwp, able to move all extremities
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   365 K/uL
   9.3 g/dL
   63 mg/dL
   6.0 mg/dL
   18 mEq/L
   3.9 mEq/L
   98 mg/dL
   111 mEq/L
   142 mEq/L
   28.7 %
   24.0 K/uL
        [image002.jpg]
                             [**2124-12-24**]  01:16 PM
                             [**2124-12-24**]  02:13 PM
                             [**2124-12-25**]  02:59 AM
                             [**2124-12-25**]  03:18 AM
                             [**2124-12-26**]  03:00 AM
   WBC
   18.0
   18.6
   24.0
   Hct
   26.1
   25.7
   28.7
   Plt
   293
   281
   365
   Cr
   5.5
   5.6
   6.0
   TCO2
   19
   20
   Glucose
   57
   54
   63
   Other labs: PT / PTT / INR:16.0/35.6/1.4, ALT / AST:[**3-19**], Alk Phos / T
   Bili:66/0.2, Differential-Neuts:77.0 %, Band:4.0 %, Lymph:12.0 %,
   Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L, Albumin:1.3 g/dL,
   Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:9.0 mg/dL
   Assessment and Plan
   This is a 64 M w/ pmh of stage IV CK, 3 recent UGI bleeds in the
   setting of duodenal ulcers, recent tx for MSSA endocarditis w/ 3+ AR,
   recent cardioversion for afib w/ rvr, transferred to [**Hospital1 54**] for
   consideration of CVVH in the setting of hypotension and likely
   continuing septic physiology.
   # Hypotension: Hypotensive/Normotensive o/n.  Likely septic physiology
   given WBC count 18 from 27 on the 14^th & cdiff +.  Otherwise afebrile.
   Levophed briefly overnight
   - hold BP meds for now
   - will continue vanc/zosyn for and d/c if cx neg X 48 hrs.
   - continue treating cdiff w/ po vanco as below
   - TTE today
   - Midodrine 5mg PO TID for pressor support during HD/CVVH
   - Continue levophed as needed
   # C. diff colitis: Currently being treated w/ po vanc (D1 = [**12-13**]).  Has
   a history of chronic diarrhea of unknown etiology.
   - continue po vanc X 14 after last day of broad-spectrum antibiotics
   ([**12-24**])
   - trend WBC count/ stool output
   # Acute renal failure on chronic renal failure:  His baseline cr was
   2.6 on admission to [**Hospital1 3335**].  Cr now 5.6 on transfer with anasarca.
   ATN with nephrotic syndrome (Alb 0.7).
   - Renal consult for CVVH vs HD
   - Renal to place line, consider DDAVP prior to line placement
   - renal diet
   - nephrocaps
   - phos binders given phos of 7.7
   # Hypoxia: h/o smoking so likely has some underlying COPD.  Likely a
   component of volume overload/pulmonary edema given renal failure.
   - continue ipratropium nebs
   - CVVH vs HD as above
   # Enterobacter clocae UTI: Per OSH, blood cx from [**12-16**] w/ NGTD.  D/C
   Cipro after 11 day course
   - Contact OSH Micro lab for sensitivity data
   - send UA/cx
   .
   # DVT: R superficial femoral vein thrombosis [**First Name8 (NamePattern2) **] [**Hospital1 3335**] report.  Is
   very high risk for recurrent GI bleed.
   -          D/C heparin ggt until stable HD line in place
   -          Restart heparin 24-48 hourts
   # Afib: Currently in sinus.  Status post cardioversion on [**12-20**] in the
   setting of hypotension.  Has been on heparin ggt and amio was started
   to prevent recurrent afib.  Likley afib occurred in the seting of
   septic shock from ? cdiff.
   - will d/c amio for now
   - D/C heparin given recent GI Bleeds until planned restart as above
   # Anemia: Macrocytic. Had an upper GI bleed during his last [**Hospital1 54**]
   hospitalization and 2 additional GI bleeds at [**Hospital1 3335**] requiring 6 U
   PRBC.  This may also be c/b B12 deficiency as it appears that his B12
   level was low in [**4-13**].
   - re-check B12/Folate
   - guiac stools
   - transfuse for hct < 21
   # Decubitus ulcers: Stage 1 sacral decubitus ulcer.
   - wound consult
   # DM: BS well-controlled w/o insulin coverage at [**Hospital1 3335**].
   - trend for now
   - add insulin SS if needed
   # Bipolar disorder/Schizophrenia: continue valproic acid, wellbutrin,
   seroquel, lamictal
   # GERD: continue pantoprazole 40 mg [**Hospital1 **] given h/o duodenal ulcers and
   GI bleed during last [**Hospital1 54**] hospitalization
   # Hyperlipidemia: continue simvastatin
   # BPH: hold terazosin as has a foley in place
   # FEN: No IVF, replete electrolytes, renal diet
   # Prophylaxis: P Boots, VRE carrier, known cdiff +
   # Access:
   1- Right IJ line (placed [**2124-12-16**]) - will request PICC and d/c
   2- Right radial A-line (placed [**2123-12-21**]) - will d/c if not needed
   # Code: Full with
limited duration of intubation
   # Communication: Patient and HCP Ms. [**First Name8 (NamePattern2) 7543**] [**Last Name (NamePattern1) 2288**] cell ([**Telephone/Fax (1) 7545**]
   # Disposition: ICU for now
 IMPAIRED SKIN INTEGRITY
 DIABETES MELLITUS (DM), TYPE II
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2124-12-24**] 01:09 PM
   PICC Line - [**2124-12-25**] 02:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: